US05122523
53 mg of L-Nα -[(2RS)-3-ethylsulfonyl-2-(1-naphthylmethyl)propionyl]-Nim -triphenylmethylhistidine methyl ester was dissolved in 0.8 ml of methanol/water (10/1), and 0.387 ml of a solution of 1N potassium hydroxide in methanol/water (10/1) was added thereto. The mixture was stirred at room temperature for 50 minutes. The mixture was neutralized with 1N hydrochloric acid under cooling with ice, and 20 ml of ethyl acetate was added thereto. The ethyl acetate layer was washed with water and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue thereby obtained was purified by silica gel column chromatography (chloroform/methanol/acetic acid=15/1/0.15). The fractions containing the desired product were collected, and the organic layer was washed with a 4% sodium hydrogencarbonate aqueous solution and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then, the solvent was distilled off to obtain 49 mg of L-Nα -[(2RS)-3-ethylsulfonyl-2-(1-naphthylmethyl)propionyl]-Nim -triphenylmethylhistidine as colorless solid.

reactant | triphenylmethylhistidine methyl ester | COC([C@@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CNC=N1)=O | C26H25N3O2
reactant | potassium hydroxide | 1N | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate ethanol | 0.8 ml | C(C)(=O)OCC.C(C)O
product | triphenylmethylhistidine | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](CC1=CNC=N1)C(=O)O | C25H23N3O2
